.SUBCKT irf6724m 1 2 3
* SPICE3 MODEL WITH THERMAL RC NETWORK
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Aug 20, 09
* MODEL FORMAT: SPICE3
* Symmetry POWER MOS Model (Version 1.0)
* External Node Designations
* Node 1 -> Drain
* Node 2 -> Gate
* Node 3 -> Source
M1 9 7 8 8 MM L=100u W=100u
.MODEL MM NMOS LEVEL=1 IS=1e-32
+VTO=2.35882 LAMBDA=0.00626038 KP=178.024
+CGSO=4.0611e-05 CGDO=5.10734e-07
RS 8 3 0.0001
D1 3 1 MD
.MODEL MD D IS=3.62838e-09 RS=0.00036013 N=1.37776 BV=30
+IBV=0.00025 EG=1.2 XTI=4 TT=1e-07
+CJO=1.53588e-09 VJ=1.55243 M=0.503547 FC=0.5
RDS 3 1 3e+07
RD 9 1 0.000780521
RG 2 7 2.0984
D2 4 5 MD1
* Default values used in MD1:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL MD1 D IS=1e-32 N=50
+CJO=6.28682e-10 VJ=2.726 M=0.3 FC=1e-08
D3 0 5 MD2
* Default values used in MD2:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   BV=infinite IBV=1mA
.MODEL MD2 D IS=1e-10 N=0.4 RS=3e-06
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 2.30191e-09
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 0 6 MD3
* Default values used in MD3:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL MD3 D IS=1e-10 N=0.4
.ENDS irf6724m

*SPICE Thermal Model Subcircuit
.SUBCKT irf6724mt 4 0

R_RTHERM1         4 3  0.992920354
R_RTHERM2         3 2  2.171681416
R_RTHERM3         2 1  24.1460177
R_RTHERM4         1 0  17.69469027
C_CTHERM1         4 0  0.0000745
C_CTHERM2         3 0  0.0036189
C_CTHERM3         2 0  0.0397167
C_CTHERM4         1 0  1.8423606

.ENDS irf6724mt
 


